US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-(4-fluoro-2-piperazin-1-ylmethyl-phenyl)-methanone, dihydrochloride
4-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-benzyl]-piperazine-1-carboxylic acid tert-butyl ester (133 mg, 0.21 mmol) was added into a mixture of a 4N solution of HCl in dioxane (2 mL, 8.0 mmol) and water (0.4 mL). After 1 hour of stirring at RT, the reaction mixture was diluted with a 1N aqueous solution of NaOH (15 mL) and extracted with DCM (3×25 mL). The organic layers were combined, dried (Na2SO4) and concentrated under vacuum. After purification by flash chromatography (silica, DCM/EtOH/28% aqueous ammonia), the parent compound was obtained as a white solid. The solid was dissolved in DCM (2 ml), then a 2N solution of HCl in Et2O (0.5 mL) was added, followed by Et2O (2 mL). The precipitate was filtered off, washed with Et2O (3×) and dried under vacuum to give the title compound as a white powder (34 mg, 32%). 1H NMR (D2O) δ 7.76-7.67 (m, 1H), 7.47-7.34 (m, 2H), 5.01 (s, 1H), 4.98 (s, 1H), 4.72 (s, 1H), 4.67 (s, 1H), 4.15 (s, 2H), 3.40-3.21 (m, 8H), 2.80 (s, 1.5H), 2.76 (s, 1.5H), 2.63 (s, 1.5H), 2.57 (s, 1.5H). HPLC (max plot) 99.9%, Rt 2.39 min. UPLC/MS: (MS+) 443.4 ([M+H]+), (MS−) 441.4 ([M−H]−).

reactant | 4-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-benzyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.21 mmol, 133 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C27H32ClFN6O3
reactant | HCl | Cl | ClH
reactant | dioxane | 8.0 mmol, 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.4 mL | O | H2O
solvent | NaOH | 15 mL | [OH-].[Na+]
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | Et2O | 0.5 mL | CCOCC | C4H10O
solvent | Et2O | 2 mL | CCOCC | C4H10O
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-(4-fluoro-2-piperazin-1-ylmethyl-phenyl)-methanone, dihydrochloride | 34 mg, 32% | Cl.Cl.ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=C(C=C3)F)CN3CCNCC3)C | InChI=1S/C22H24ClFN6O.2ClH/c1-13-20(23)14(2)30-21(26-13)18-11-29(12-19(18)27-30)22(31)17-4-3-16(24)9-15(17)10-28-7-5-25-6-8-28;;/h3-4,9,25H,5-8,10-12H2,1-2H3;2*1H
